US09056873B2
Step B: 5-(Tributylstannyl)-3-vinylisothiazole
To a cold (−78° C.) solution of 3-vinylisothiazole (300 mg, 2.70 mmol) in anhydrous THF (6.0 mL) was added n-butyllithium (1.855 mL, 2.97 mmol) dropwise. After stirring the reaction mixture for 60 minutes at −78° C., a solution of tributylchlorostannane (0.873 mL, 3.24 mmol) in anhydrous THF (1.5 mL) was added. The reaction mixture was stirred for 30 minutes at −78° C. and then allowed to warm to room temperature over a 1 hour period. Saturated aqueous sodium bicarbonate was added and the aqueous phase was extracted with EtOAc. The organic phases were combined, dried over anhydrous sodium sulfate, filtered, and evaporated in vacuo. The residue was purified by silica gel chromatography (Flash 60 column) eluting with hexane/EtOAc (19:1) to give the title compound as a pale yellow oil (472.8 mg, 44%). 1H NMR (500 MHz, CDCl3) δ ppm 0.90 (t, J=7.32 Hz, 9H), 1.13-1.18 (m, 6H), 1.34 (sextet, J=7.42 Hz, 6H), 1.52-1.61 (m, 6H), 5.50 (dd, J=11.23, 0.98 Hz, 1H), 6.00 (dd, J=17.60, 0.98 Hz, 1H), 6.96 (dd, J=17.57, 11.23 Hz, 1H), 7.33 (s, 1H).

reactant | 3-vinylisothiazole | 2.70 mmol, 300 mg | C(=C)C1=NSC=C1 | C5H5NS
reactant | n-butyllithium | 2.97 mmol, 1.855 mL | C(CCC)[Li]
reactant | tributylchlorostannane | 3.24 mmol, 0.873 mL | C(CCC)[Sn](Cl)(CCCC)CCCC
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF | 6.0 mL | C1CCOC1 | C4H8O
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
product | 5-(Tributylstannyl)-3-vinylisothiazole | 472.8 mg, 44% | C(CCC)[Sn](C1=CC(=NS1)C=C)(CCCC)CCCC | InChI=1S/C5H4NS.3C4H9.Sn/c1-2-5-3-4-7-6-5;3*1-3-4-2;/h2-3H,1H2;3*1,3-4H2,2H3;
